US04568687
3-(1H-Imidazol-1-yl)-2-methylpropanamine
A mixture of 15.0 g. of imidazole and 25 ml. of methacrylonitrile was heated at reflux temperature for 18 hours and then concentrated to remove the volatile material. The residue was mixed with 150 ml. of ethanol, 75 ml. of ammonium hydroxide and 6 g. of Raney Nickel catalyst and reduced in a Parr hydrogenator under hydrogen pressure until reduction was complete. The catalyst was removed by filtration and the mother liquor was concentrated to remove the solvents. The residual oil was used in reactions without further purification.

reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | methacrylonitrile | C(C(=C)C)#N | C4H5N
product | 3-(1H-Imidazol-1-yl)-2-methylpropanamine | N1(C=NC=C1)CC(CN)C | C7H13N3
